US06927222B2
i) 3,5-Difluoro-6-nitrophenol
To a stirred solution of 2,3,4-trifluoronitrobenzene (5 g, 28.23 mmol) in dry methanol (70 ml) was added a solution of sodium (0.68, 29.46) in dry methanol (30 ml). The solution was stirred until all starting material was consumed (˜2 h). After concentration water was added and the solution was extracted with ether, dried over Na2SO4, filtered and concentrated to a yellow residue (4.65 g). To the solution of the yellow residue in dichloromethane (140 ml) was added boron tribromide (1M in dichloromethane, 40 ml) and stirred at room temperature overnight. Water was then added and the solution stirred for further 30 min. The organic phase was separated and the water phase was extracted with ether. The combined organic phase were dried over Na2SO4, filtered and concentrated in vacuo to give a brownish residue. The residue was taken up into ether and washed with 2M sodium hydroxide and water. The water and sodium hydroxide washings were combined and neutralized with 6M HCl and extracted with ether, dried over Na2SO4 and evaporated to give a yellow residue which was purified by flash chromatography on silica gel with EtOAc:Heptan; 1:2 as eluent to give the desired product 2 g, 11.42 mmol.

reactant | 2,3,4-trifluoronitrobenzene | 28.23 mmol, 5 g | FC1=C(C=CC(=C1F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | sodium | [Na] | Na
reactant | ether | CCOCC | C4H10O
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 3,5-Difluoro-6-nitrophenol | 11.42 mmol, 2 g | FC=1C=C(C(=C(C1)F)[N+](=O)[O-])O | C6H3F2NO3
